US08455477B2
3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (20.0 mg, 0.056 mmol), 3-ethynylpyridine (17.5 mg, 0.169 mmol), tetrakis(triphenylphosphine)palladium (0) (6.5 mg, 5.7 mmol), and copper (I) iodide (6.5 mg, 0.034 mmol) were suspended in DMF (1 ml). Triethylamine (0.016 ml, 0.113 mmol) was added, the mixture was sparged with argon for 10 minutes then allowed to stir at ambient temperature. After 1 h, the reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate, filtered and concentrated to give 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-(pyridin-3-ylethynyl)pyrazolo[1,5-a]pyridine. 1H NMR (600 MHz, DMSO-d6) δ 8.68 (s, 1H); 8.65 (d, 1H); 8.51 (dd, 1H); 8.30 (s, 1H); 8.17 (s, 1H); 8.03 (s, 1H); 7.85-7.88 (m, 1H); 7.40-7.43 (m, 1H); 7.02 (s, 1H); 4.02 (s, 3H); 3.85 (s, 3H). LRMS (ESI) calculated for C19H16N5O [M+H]+, 330.1; found 330.0.

reactant | 3-iodo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.056 mmol, 20.0 mg | IC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C12H11IN4O
reactant | 3-ethynylpyridine | 0.169 mmol, 17.5 mg | C(#C)C=1C=NC=CC1 | C7H5N
reactant | Triethylamine | 0.113 mmol, 0.016 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 5.7 mmol, 6.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | copper (I) iodide | 0.034 mmol, 6.5 mg | [Cu]I
product | 4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)-3-(pyridin-3-ylethynyl)pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC=2C=NC=CC2 | C19H15N5O
